US06121470
Sodium N-carboxyethyl-N-dodecanoylglycinate
Disodium N-carboxyethylglycinate was acylated with the use of dodecanoyl chloride and a 48% aqueous solution of NAOH in the same manner as that in Example 8. The pH of the resultant aqueous solution of the reaction mixture was adjusted to 7.0 with concentrated hydrochloric acid. The obtained aqueous solution was desalted with the use of an electrodialyzer to thereby reduce the salt concentration to 2% or below. Thereafter, the water was evaporated off with the use of a rotary evaporator, and the residue was washed with acetone to thereby give sodium N-carboxyethyl-N-dodecanoylglycinate (the term, "sodium" includes monosodium, disodium, and a mixture of monosodium and disodium, herein) as a colorless powder.

reactant | Disodium N-carboxyethylglycinate | C(=O)(O)CCNCC(=O)[O-].[Na+].[Na+].C(=O)(O)CCNCC(=O)[O-]
reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | hydrochloric acid | Cl | ClH
product | Sodium N-carboxyethyl-N-dodecanoylglycinate | C(=O)(O)CCN(CC(=O)[O-])C(CCCCCCCCCCC)=O.[Na+] | InChI=1S/C17H31NO5.Na/c1-2-3-4-5-6-7-8-9-10-11-15(19)18(14-17(22)23)13-12-16(20)21;/h2-14H2,1H3,(H,20,21)(H,22,23);/q;+1/p-1
